US07524853B2
3-Benzyl-2-(2-bromo-3,4,5-trimethoxyphenyl)-8-hydroxy-5-methyl-3H-benzo[4,5]thieno[2,3-d]pyrimidin-4-one
3-Benzyl-7-bromo-2-(2-bromo-3,4,5-trimethoxyphenyl)-5-methyl-6,7-dihydro-3H,5H-benzo[4,5]thieno[2,3-d]pyrimidine-4,8-dione (compound No. 685) (100 mg, 100 mol-%) and NaOH (20 mg, 400 mol-%) in 1.5 ml of ethanol was heated by using microwaves (100° C., 100 s). The solvent was evaporated. EtOAc was added and the reaction mixture was washed with 5% HCl-solution. The product was purified by chromatography using dichloromethane-EtOAc 9.5:0.5 as an eluent.

reactant | 3-Benzyl-7-bromo-2-(2-bromo-3,4,5-trimethoxyphenyl)-5-methyl-6,7-dihydro-3H,5H-benzo[4,5]thieno[2,3-d]pyrimidine-4,8-dione | C(C1=CC=CC=C1)N1C(=NC2=C(C1=O)C1=C(S2)C(C(CC1C)Br)=O)C1=C(C(=C(C(=C1)OC)OC)OC)Br | C27H24Br2N2O5S
reactant | NaOH | 400 mol, 20 mg | [OH-].[Na+]
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
product | 3-Benzyl-2-(2-bromo-3,4,5-trimethoxyphenyl)-8-hydroxy-5-methyl-3H-benzo[4,5]thieno[2,3-d]pyrimidin-4-one | C(C1=CC=CC=C1)N1C(=NC2=C(C1=O)C1=C(S2)C(=CC=C1C)O)C1=C(C(=C(C(=C1)OC)OC)OC)Br | C27H23BrN2O5S
